US07867980B2
(4-Bromophenyl)(pyridin-3-yl)methanol
3-Bromopyridine (0.4 ml, 4.0 mmol) was dissolved in 15 ml of tetrahydrofuran in an argon atmosphere. n-Butyllithium (1.58 M n-hexane solution, 2.4 ml, 3.8 mmol) was added to the solution at −78° C., and the mixture was stirred for 25 min. Subsequently, a solution of 502 mg (2.7 mmol) of 4-bromobenzaldehyde in tetrahydrofuran (2 ml) was added dropwise thereto at −78° C., and the mixture was stirred at −78° C. for one hr, was stirred under ice cooling for one hr, and was then stirred at room temperature for one hr. The reaction solution was diluted with 30 ml of ethyl acetate, and the diluted solution was washed with a saturated aqueous ammonium chloride solution. The aqueous layer was extracted twice with 5 ml of ethyl acetate. The organic layers were combined and were washed with 25% brine. The organic layer was dried over anhydrous sodium sulfate and was then filtered. The filtrate was concentrated under the reduced pressure, and the residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=1:1) to give 282 mg (yield 40%) of the title compound.

reactant | 3-Bromopyridine | 4.0 mmol, 0.4 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-Butyllithium | 3.8 mmol, 1.58 M, 2.4 ml | C(CCC)[Li]
reactant | 4-bromobenzaldehyde | 2.7 mmol, 502 mg | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (4-Bromophenyl)(pyridin-3-yl)methanol | 282 mg, yield 40% | BrC1=CC=C(C=C1)C(O)C=1C=NC=CC1 | C12H10BrNO
